US04722929
2-(2-Methoxy-4-methylsulfinyl-phenyl)-5H-imidazo[4,5-d]pyridazin-4-one
An amount of 0.21 gm of 2-(2-methoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-d]pyridazin-4-one is suspended in 10 ml of glacial acetic acid and mixed with 0.08 ml of 30% hydrogen peroxide. The mixture is stirred for 24 hours at ambient temperature and poured onto 20 ml of ice water. It is then stirred until a precipitate has formed. This is subjected to suction filtration and purified by chromatography on silica gel [eluant: methylene chloride/ethanol (100:0 to 100:3)].

reactant | 2-(2-methoxy-4-methylmercapto-phenyl)-5H-imidazo[4,5-d]pyridazin-4-one | 0.21 gm | COC1=C(C=CC(=C1)SC)C=1N=C2C(=CNNC2=O)N1 | C13H12N4O2S
reactant | hydrogen peroxide | 0.08 ml | OO | H2O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-(2-Methoxy-4-methylsulfinyl-phenyl)-5H-imidazo[4,5-d]pyridazin-4-one | COC1=C(C=CC(=C1)S(=O)C)C=1N=C2C(=CNNC2=O)N1 | C13H12N4O3S
